US09403832B2
Part C. (S)-2-amino-N—((S)-1-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)pyrrolidin-3-yl)-N,4-dimethylpentanamide
(S)-1-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-N-methylpyrrolidin-3-amine (200 mg, 0.68 mmol) Boc-L-Leu (187 mg, 0.81 mmol), HATU (385 mg, 1.01 mmol), and triethylamine (375 uL, 2.7 mmol) Taken up in DMF and Stirred at room temp overnight. Reaction diluted with DCM, washed with water, DCM layer then dried over magnesium sulfate filtered and reduced in vacuo. This was then taken up in 26 mL DCM and 4 mL TFA added. Stirred 1 hour until complete by LC/MS. Reaction washed with 1N NaOH, DCM layer removed dried over magnesium sulfate filtered, reduced in vacuo for 226 mg crude product used as is in part D. LRMS (ESI) m/z 409/411 [(M+H)]+, calc'd for C17H24BrN6O: 409.

reactant | (S)-1-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-N-methylpyrrolidin-3-amine | 0.68 mmol, 200 mg | BrC=1C=NN2C1N=C(C=C2)N2C[C@H](CC2)NC | C11H14BrN5
reactant | HATU | 1.01 mmol, 385 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 2.7 mmol, 375 uL | C(C)N(CC)CC | C6H15N
reactant | DMF | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (S)-2-amino-N—((S)-1-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)pyrrolidin-3-yl)-N,4-dimethylpentanamide | N[C@H](C(=O)N(C)[C@@H]1CN(CC1)C1=NC=2N(C=C1)N=CC2Br)CC(C)C | C17H25BrN6O
